* Schematics Netlist *



R_R6         0 $N_0001  1k  
R_R7         $N_0002 0  1k  
V_V7         $N_0003 0 DC 5  
X_U1A         $N_0005 $N_0001 $N_0003 $N_0006 $N_0004 LM324
X_U2A         $N_0008 $N_0002 $N_0009 $N_0010 $N_0007 LM324
V_V10         0 $N_0010 DC 5  
V_V9         $N_0009 0 DC 5  
V_V8         0 $N_0006 DC 5  
R_R4         $N_0012 $N_0011  10k  
R_R2         0 $N_0013  10k  
R_R1         $N_0004 $N_0013  10k  
R_R3         $N_0007 $N_0012  10k  
R_R5         $N_0001 $N_0004  100k  
R_R8         $N_0007 $N_0002  100k  
V_V2         $N_0008 0  
+SIN 0 5m 100 0 0 0
V_V1         $N_0005 0  
+SIN 0 10m 100 0 0 0
X_U3A         $N_0013 $N_0012 $N_0003 $N_0010 $N_0011 LM324
